US07417065B2
To a solution of 2-(2-trifluoromethyl-biphenyl-4-yl)-benzo[b]thiophene-6-carbaldehyde(23 mg, 0.05 mmol) in 3 mL MeOH, β-alanine (8.7mg, 0.1 mmol) and catalytic amount Et3N are added. The suspension is heated to 50° C. for 0.5 hours, followed by the addition of 2 mg of NaBH4. After Pre-LC-MS, 10 mg of 3-{[2-(2-trifluoromethyl-biphenyl-4-yl)-benzo[b]thiophen-6-ylmethyl]-amino}-propionic acid is obtained as a white solid. MS m/z 456[M+1]+. 1H NMR (MeOD-d4): δ 8.22 (d, 1H), 7.93 (m, 2H), 7.86 (d, 1H), 7.81 (s, 1H), 7.40 (m, 1H), 7.34 (d, 1H), 7.28 (m, 3H), 7.24 (m, 2H), 4.26 (s, 2H), 3.15 (t, 2H), 2.52 (t, 2H).

reactant | 2-(2-trifluoromethyl-biphenyl-4-yl)-benzo[b]thiophene-6-carbaldehyde | 0.05 mmol, 23 mg | FC(C1=C(C=CC(=C1)C1=CC2=C(S1)C=C(C=C2)C=O)C2=CC=CC=C2)(F)F | C22H13F3OS
reactant | β-alanine | 0.1 mmol, 8.7mg | NCCC(=O)O | C3H7NO2
reactant | Et3N | CCN(CC)CC | C6H15N
reactant | NaBH4 | 2 mg | [BH4-].[Na+]
solvent | MeOH | 3 mL | CO | CH4O
product | 3-{[2-(2-trifluoromethyl-biphenyl-4-yl)-benzo[b]thiophen-6-ylmethyl]-amino}-propionic acid | 10 mg | FC(C1=C(C=CC(=C1)C1=CC2=C(S1)C=C(C=C2)CNCCC(=O)O)C2=CC=CC=C2)(F)F | C25H20F3NO2S
